US08536168B2
1-Benzyl-4-piperazin-1-yl-phthalazine (Compound 9)
1-Benzyl-4-chlorophthalazine (1.06 g, 4.18 mmol) and piperazine (1.82 g, 20.9 mmol) are added into a microwave vial, followed by NMP (5 ml) and triethylamine (6.62 ml, 12.5 mmol). The vial is sealed and irradiated in the microwave at 180° C. (high absorption setting) for 30 minutes. Dichloromethane (10 mL) is added to form a precipitate, which is washed with additional dichloromethane and dried under reduced pressure to afford the product as a white powder (745 mg, 58% yield).

reactant | 1-Benzyl-4-chlorophthalazine | 4.18 mmol, 1.06 g | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)Cl | C15H11ClN2
reactant | piperazine | 20.9 mmol, 1.82 g | N1CCNCC1 | C4H10N2
reactant | NMP | 5 ml | CN1CCCC1=O | C5H9NO
reactant | triethylamine | 12.5 mmol, 6.62 ml | C(C)N(CC)CC | C6H15N
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-Benzyl-4-piperazin-1-yl-phthalazine | 745 mg, 58% yield | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCNCC1 | C19H20N4
